US07557114B2
(c) 5-Cyclopropyl-6-(tetrahydro-pyran-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl Ester
Prepared in analogy to Example A49(b) from 5-cyclopropyl-6-(3,6-dihydro-2H-pyran-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and ammonium formate. Colourless oil. MS (m/e): 288.0 ([M+H−Me2C═CH2]+, 100%).

reactant | 5-cyclopropyl-6-(3,6-dihydro-2H-pyran-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)C1CC1)C=1CCOCC1 | C21H27NO3
reactant | ammonium formate | C(=O)[O-].[NH4+]
product | 5-Cyclopropyl-6-(tetrahydro-pyran-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl Ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)C1CC1)C1CCOCC1 | C21H29NO3
